US08017611B2
4-bromo-N,N-dimethyl-1H-pyrazole-3-carboxamide (450 mg), potassium carbonate (456 mg) and tert-butyl 4-(methylsulfonyloxy)piperidine-1-carboxylate (900 mg) in acetonitrile (13 mL) were stirred at 90° C. overnight. The mixture was concentrated and the residue was dissolved in ethylacetate, washed with water, brine dried over magnesium sulfate and concentrated. The crude product was purified by flash chromatography on silica gel eluting with 50 to 90% ethyl acetate in petroleum ether. The solvent was evaporated to dryness to afford tert-butyl 4-[4-bromo-3-(dimethylcarbamoyl)pyrazol-1-yl]piperidine-1-carboxylate (340 mg). NMR Spectrum: (DMSOd6) 1.41 (s, 9H), 1.73 (dd, 1H), 1.78 (dd, 1H), 1.96-1.05 (m, 2H), 2.89 (bs, 2H), 2.95 (s, 3H), 2.87 (s, 3H), 3.92-4.10 (m, 2H), 4.33-4.44 (m, 1H), 8.15 (s, 1H); Mass spectrum: M+H+ 401-403

reactant | 4-bromo-N,N-dimethyl-1H-pyrazole-3-carboxamide | 450 mg | BrC=1C(=NNC1)C(=O)N(C)C | C6H8BrN3O
reactant | potassium carbonate | 456 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl 4-(methylsulfonyloxy)piperidine-1-carboxylate | 900 mg | CS(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO5S
solvent | acetonitrile | 13 mL | C(C)#N | C2H3N
product | tert-butyl 4-[4-bromo-3-(dimethylcarbamoyl)pyrazol-1-yl]piperidine-1-carboxylate | 340 mg | BrC=1C(=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C(N(C)C)=O | C16H25BrN4O3
